US04900829
Step (4) Preparation of Methyl 5-Cyano-2cyclohexyl-1,6-dihydro-4-(methylthio)-6-oxo-1-pyrimidineacetate
To a cooled (0° C.), stirred suspension of NaH (50% dispersion in mineral oil, washed with hexane, 2.2 g, 0.047 mol) in DME (350 mL) was added 2-cyclohexyl-1,6-dihydro-4-(methylthio)-6-oxo-5-pyrimidinecarbonitrile (9.5 g, 0.038 mol) in several portions. After 1 hour, methyl bromoacetate was added and the resulting solution was heated at 95°-100° C. for 2 days. The solution was cooled and water (300 mL) was added. The mixture was extracted with ethyl acetate and the combined extracts were washed with water, dried (MgSO4), and concentrated to give a beige powder (12.2 g, 99%) which was used without further purification.

reactant | NaH | 0.047 mol, 2.2 g | [H-].[Na+]
reactant | 2-cyclohexyl-1,6-dihydro-4-(methylthio)-6-oxo-5-pyrimidinecarbonitrile | 0.038 mol, 9.5 g | C1(CCCCC1)C=1NC(C(=C(N1)SC)C#N)=O | C12H15N3OS
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | water | 300 mL | O | H2O
solvent | DME | 350 mL | COCCOC | C4H10O2
product | Methyl 5-Cyano-2cyclohexyl-1,6-dihydro-4-(methylthio)-6-oxo-1-pyrimidineacetate | 12.2 g, 99% | C(#N)C1=C(N=C(N(C1=O)CC(=O)OC)C1CCCCC1)SC | C15H19N3O3S
